US05506089
By the procedure described in Ex. 8, 4-(4-methoxystyryl) pyridine and 2-(2-bromoetyl) 1,3-dioxane were reacted to obtain N-[2-(1,3-dioxane-2-yl) ethyl]-4-(4methoxystyryl) pyridinium bromide.

reactant | 4-(4-methoxystyryl) pyridine | COC1=CC=C(C=CC2=CC=NC=C2)C=C1 | C14H13NO
reactant | 2-(2-bromoetyl) 1,3-dioxane | BrCCC1OCCCO1 | C6H11BrO2
product | N-[2-(1,3-dioxane-2-yl) ethyl]-4-(4methoxystyryl) pyridinium bromide | [Br-].O1C(OCCC1)CC[N+]1=CC=C(C=C1)C=CC1=CC=C(C=C1)OC | InChI=1S/C20H24NO3.BrH/c1-22-19-7-5-17(6-8-19)3-4-18-9-12-21(13-10-18)14-11-20-23-15-2-16-24-20;/h3-10,12-13,20H,2,11,14-16H2,1H3;1H/q+1;/p-1
